US03956323
A total of 55.5 g. of benzyl-(R)-2-(2-furoyloxy)-isocaproate were hydrogenated in 400 ml. of alcohol after the addition of 5 g. of palladium-on-charcoal (5%) until the theoretical amount of hydrogen had been taken up. The catalyst was filtered off by suction and the filtrate evaporated under reduced pressure at 40°. The oil thus obtained was dissolved in 250 ml. of 8% sodium bicarbonate solution and the resulting solution washed twice with 80 ml. portions of ether. The pH of the bicarbonate solution was adjusted to pH 2 with concentrated hydrochloric acid and extracted three times with 100 ml. portions of ethyl acetate. The ethyl acetate solutions were washed twice with 50 ml. portions of water, dried with magnesium sulphate and evaporated under reduced pressure at 45°. The residual oil was dried for 2 hours at 0.4 Torr and 40° to give (R)-2-(2-furoyloxy)-isocaproic acid; [α]D25 =+7.0 (c = 4.0 in alcohol).

reactant | benzyl-(R)-2-(2-furoyloxy)-isocaproate | C(C1=CC=CC=C1)OC([C@@H](CC(C)C)OC(=O)C=1OC=CC1)=O | C18H20O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | (R)-2-(2-furoyloxy)-isocaproic acid | O1C(=CC=C1)C(=O)O[C@@H](C(=O)O)CC(C)C | C11H14O5
